US04592866
8-Chloro-2-[2-(dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione hydrochloride [1:1]
A solution of 9.8 g (0.04 mole) of 8-chloro-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione in 50 ml of absolute ethanol and 10 ml of a 40% aqueous solution of dimethylamine were mixed and heated in a steel bomb at 100° C. for 16 hr. The ethanol was evaporated under reduced pressure and the residue dissolved in chloroform and partitioned with 10% sodium hydroxide solution. The chloroform layer was evaporated under reduced pressure to give an amorphous solid. The solid was dissolved in 6N hydrochloric acid and the solution washed with ethyl acetate. The aqueous layer was basified with 50% sodium hydroxide and extracted with ethyl acetate. The ethyl acetate layer was evaporated under reduced pressure to give a viscous oil comprised substantially of the free base of the title compound which was dissolved in absolute ethanol and reacted with ethereal hydrogen chloride. The hydrochloride salt was recrystallized from ethanol to give 30 g (25%) product, m.p. 196°-199° C.

reactant | 8-chloro-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione | 0.04 mole, 9.8 g | ClC1=CC2=C(C(N(CC(O2)CCCl)C)=S)C=C1 | C12H13Cl2NOS
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 6N | Cl | ClH
product | 8-Chloro-2-[2-(dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione hydrochloride | Cl.ClC1=CC2=C(C(N(CC(O2)CCN(C)C)C)=S)C=C1 | InChI=1S/C14H19ClN2OS.ClH/c1-16(2)7-6-11-9-17(3)14(19)12-5-4-10(15)8-13(12)18-11;/h4-5,8,11H,6-7,9H2,1-3H3;1H
